US04758577
1.42 grams (5.15 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine, 1.56 grams (15.45 millimoles0 of triethylamine, 0.06 gram (0.51 millimoles) of 4-dimethylaminopyridine and 25 milliliters of methylene chloride were stirred together for 5 minutes and to the stirred solution, 0.86 gram (5.15 millimole) of cinnamoyl chloride was added in one portion. The resulting mixture was stirred for 0.5 hour at room temperature, then diluted with 200 milliliters of ether and the ethereal solution washed successively with two 200 milliliter portions of 2N hydrochloric acid, one 200 milliliter portion of sodium bicarbonate solution and one 300 milliliter portion of brine. The washed solution was dried over magnesium sulfate, and the solvent vaporized in vacuo from the dried solution to obtain as residue 1.6 grams of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamoylpiperidine.

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 5.15 millimoles, 1.42 grams | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 25 milliliters | C(Cl)Cl | CH2Cl2
reactant | cinnamoyl chloride | 5.15 millimole, 0.86 gram | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
catalyst | 4-dimethylaminopyridine | 0.51 millimoles, 0.06 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 200 milliliters | CCOCC | C4H10O
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamoylpiperidine | 1.6 grams | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)C(C=CC3=CC=CC=C3)=O | C29H27NO
